US07442830B1
To a solution of 2-bromo-N-[2-({(1R)-3-methyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]butyl}amino)-2-oxoethyl]benzamide (0.220 g, 0.44 mmol) in methanol/hexane (1:1) (2.2 mL) were added 1N HCl (1 mL, 1.0 mmol) and isobutyl boronate (0.078 g, 0.76 mmol). The reaction mixture was allowed to stir overnight. The reaction mixture was concentrated and purified by reverse phase HPLC to give [(1R)-1-({[(2-bromobenzoyl)amino]acetyl}amino)-3-methylbutyl]boronic acid (0.119 g, 73%).

reactant | 2-bromo-N-[2-({(1R)-3-methyl-1-[(3aS,4S,6S,7aR)-3a,5,5-trimethylhexahydro-4,6-methano-1,3,2-benzodioxaborol-2-yl]butyl}amino)-2-oxoethyl]benzamide | 0.44 mmol, 0.220 g | BrC1=C(C(=O)NCC(=O)N[C@@H](CC(C)C)B2O[C@@]3([C@H](O2)C[C@H]2C([C@@H]3C2)(C)C)C)C=CC=C1 | C24H34BBrN2O4
reactant | HCl | 1.0 mmol, 1N, 1 mL | Cl | ClH
reactant | isobutyl boronate | 0.76 mmol, 0.078 g | B(OCC(C)C)[O-]
solvent | methanol hexane | 2.2 mL | CO.CCCCCC
product | [(1R)-1-({[(2-bromobenzoyl)amino]acetyl}amino)-3-methylbutyl]boronic acid | 0.119 g, 73% | BrC1=C(C(=O)NCC(=O)N[C@@H](CC(C)C)B(O)O)C=CC=C1 | C14H20BBrN2O4
